US06057322
g) 2-Methyl-4-phenyl-5-trifluoromethylbenzoic acid
2.6 g of methyl 2-methyl-4-phenyl-5-trifluoromethylbenzoate were dissolved in 100 ml of MeOH, 20 ml of a 1 N aqueous NaOH solution were added and the solution was stirred at RT for 8 h. The reaction mixture was poured onto 100 ml of a saturated aqueous NaHSO4 solution and extracted 3 times using 100 ml of EA each time. The organic phase was dried over Na2SO4 and the solvent was removed in vacuo.

reactant | methyl 2-methyl-4-phenyl-5-trifluoromethylbenzoate | 2.6 g | CC1=C(C(=O)OC)C=C(C(=C1)C1=CC=CC=C1)C(F)(F)F | C16H13F3O2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | NaHSO4 | 100 ml | OS(=O)(=O)[O-].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
product | 2-Methyl-4-phenyl-5-trifluoromethylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)C1=CC=CC=C1)C(F)(F)F | C15H11F3O2
